US05521160
1.07 g of 4-(4-hydroxy-phenyl)-benzoic acid, 2.8 g of anhydrous potassium carbonate, 0.65 g of bis(4-fluorophenyl) sulfone and 70 mg of dicyclohexano-18-crown-6 were suspended in 18 ml of 1,3-dimethyl-2-imidazolidinone and stirred under argon at 150° C. for 6 hours and at 175° C. for a further 3 hours. Thereupon, the reaction mixture was poured into ethanol, the separated crystals were filtered off and washed with ethanol/ether. The resulting crude product was thereupon chromatographed on LiChroprep RP-18 with water and subsequently with water containing an increasing amount of methanol. Evaporation of the relevant fractions, brief boiling in 1N hydrochloric acid and filtration over a 0.8 μm cellulose filter yielded 4'-[4-[4-(4'-carboxy-biphenyl-4-yloxy)-phenylsulfonyl]-phenoxy]-biphenyl-4-carboxylic acid as a colourless powder, MS: m/z 641.2 ([M-H]-).

reactant | 4-(4-hydroxy-phenyl)-benzoic acid | 1.07 g | OC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O3
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | bis(4-fluorophenyl) sulfone | 0.65 g | FC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)F | C12H8F2O2S
reactant | dicyclohexano-18-crown-6 | 70 mg | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
solvent | 1,3-dimethyl-2-imidazolidinone | 18 ml | CN1C(N(CC1)C)=O | C5H10N2O
solvent | ethanol | C(C)O | C2H6O
product | 4'-[4-[4-(4'-carboxy-biphenyl-4-yloxy)-phenylsulfonyl]-phenoxy]-biphenyl-4-carboxylic acid | C(=O)(O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(OC2=CC=C(C=C2)C2=CC=C(C=C2)C(=O)O)C=C1 | C38H26O8S
